US06063734
2.33 g of thiobenzamide was dissolved in 20 ml of dry methanol, and 2.16 g of 1,3-dichloroacetone was added thereto at room temperature and then heated under reflux for 1 hour. The solvent was distilled off under reduced pressure, and ice water was added to the remaining product, which was then neutralized with an aqueous solution of sodium hydrogen carbonate. The resulting product was extracted with ethyl acetate, washed with saturated saline, and dried over sodium sulfate, and the solvent was distilled off under reduced pressure. The residual product was purified through silica gel column chromatography to obtain 2.03 g of 4-chloromethyl-2-phenylthiazole was obtained from the fraction eluted with chloroform/n-hexane=1/2.

reactant | thiobenzamide | 2.33 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | 1,3-dichloroacetone | 2.16 g | ClCC(=O)CCl | C3H4Cl2O
solvent | methanol | 20 ml | CO | CH4O
product | 4-chloromethyl-2-phenylthiazole | 2.03 g | ClCC=1N=C(SC1)C1=CC=CC=C1 | C10H8ClNS
